US06803382B2
2. Preparation of (4R)-4-benzyl-3-[(2S,3S,4R)-2-methyl-3-hydroxy-4-p-methoxybenzyloxyhex-5-enoyl]-2-oxazolidinone
2.41 g (4.0 mmol, 1.0 eq) of a 7/3 mixture of (4R)-4-benzyl-3-[(2S,3S,4R)-2-methyl-3-hydroxy-4-p-methoxybenzyloxy-6-phenylselenylhexanoyl]-2-oxazolidinone and (4R)-4-benzyl-3-[(2R,3R,4R)-2-methyl-3-hydroxy-4p-methoxybenzyloxy-6-phenylselenylhexanoyl]-2-oxazolidinone are dissolved in 25 mL of chloroform in the presence of 2.45 g (5.6 mmol, 1.4 eq) of tetrabutylammonium periodate. The reaction is stirred at 65° C. for three hours. The chloroform is evaporated off and the residue is then chromatographed on silica gel: eluent (7/3 Cy/EtOAc).

reactant | (4R)-4-benzyl-3-[(2S,3S,4R)-2-methyl-3-hydroxy-4-p-methoxybenzyloxy-6-phenylselenylhexanoyl]-2-oxazolidinone | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@H]([C@@H]([C@@H](CC(C1=CC=CC=C1)[SeH])OCC1=CC=C(C=C1)OC)O)C)=O | C31H35NO6Se
reactant | (4R)-4-benzyl-3-[(2R,3R,4R)-2-methyl-3-hydroxy-4p-methoxybenzyloxy-6-phenylselenylhexanoyl]-2-oxazolidinone | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@@H]([C@H]([C@@H](CC(C1=CC=CC=C1)[SeH])OCC1=CC=C(C=C1)OC)O)C)=O | C31H35NO6Se
reactant | tetrabutylammonium periodate | 5.6 mmol, 2.45 g, 1.4 eq | I(=O)(=O)(=O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | chloroform | 25 mL | C(Cl)(Cl)Cl | CHCl3
product | (4R)-4-benzyl-3-[(2S,3S,4R)-2-methyl-3-hydroxy-4-p-methoxybenzyloxyhex-5-enoyl]-2-oxazolidinone | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@H]([C@@H]([C@@H](C=C)OCC1=CC=C(C=C1)OC)O)C)=O | C25H29NO6
